US05646173
An ozone stream (3 g ozone/hour) was conducted for 75 minutes while stirring through a solution, cooled to -70°, of 12.0 g of (RS)-2-(2-buten-1-yl)-6-phenyl-1-indanone in 180 ml of anhydrous dichloromethane and 40 ml of anhydrous methanol. Subsequently, the mixture was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 5.04 ml of dimethyl sulfide, the mixture was stirred at room temperature for 15 hours. The reaction mixture was evaporated in a vacuum. The residue was treated with 120 ml of dichoromethane and, after the addition of 30 ml of water and 30 ml of trifluoroacetic acid, stirred at room temperature for 2 hours. The mixture was subsequently poured into 150 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 50 ml of water were added. The phases were separated and the aqueous phase was extracted twice with 200 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate and concentrated in a vacuum. 1.2 g (97%) of (RS)-2-(2-oxoethyl)-6-phenyl-1-indanone were obtained as a light yellow oil.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-6-phenyl-1-indanone | 12.0 g | C(C=CC)C1C(C2=CC(=CC=C2C1)C1=CC=CC=C1)=O | C19H18O
reactant | methanol | 40 ml | CO | CH4O
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | (RS)-2-(2-oxoethyl)-6-phenyl-1-indanone | 1.2 g, 97% | O=CCC1C(C2=CC(=CC=C2C1)C1=CC=CC=C1)=O | C17H14O2
